US08809267B2
A solution of 1-tert-butoxycarbonylamino-2-(2-methanesulfonyloxyethyl)cyclopropanecarboxylic acid methyl ester (0.52 g, 1.53 mmol) in 5 mL MeOH was added dropwise to a rt solution of sodium thiomethoxide in 3 mL MeOH. After 4.75 h, the solvent was removed in vacuo and the residue was taken up in EtOAc and H2O (15 mL each). The aqueous layer was extracted with 3×10 mL EtOAc. The combined organics were washed with brine and dried over anhydrous MgSO4. Following concentration in vacuo, 1-tert-butoxycarbonylamino-2-(2-methylsulfanylethyl)cyclopropanecarboxylic acid methyl ester (0.350 g, 79%) was obtained as a colorless oil that was used without further purification. LCMS found 312.0 [M+Na]+.

reactant | 1-tert-butoxycarbonylamino-2-(2-methanesulfonyloxyethyl)cyclopropanecarboxylic acid methyl ester | 1.53 mmol, 0.52 g | COC(=O)C1(C(C1)CCOS(=O)(=O)C)NC(=O)OC(C)(C)C | C13H23NO7S
reactant | sodium thiomethoxide | C[S-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
solvent | MeOH | 3 mL | CO | CH4O
product | 1-tert-butoxycarbonylamino-2-(2-methylsulfanylethyl)cyclopropanecarboxylic acid methyl ester | 0.350 g, 79% | COC(=O)C1(C(C1)CCSC)NC(=O)OC(C)(C)C | C13H23NO4S
